US09421205B2
(g) 2-(2-(2-(2-((4-(Piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)propanamide (12)
Trifluoroacetic acid (0.417 mL, 5.46 mmol) was added to a solution of tert-butyl 4-(4-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I55) (65.2 mg, 0.109 mmol) in dry DCM (8 mL) under an atmosphere of nitrogen. The reaction was stirred at room temperature for 23 hours. The volatiles were removed in vacuo and the residue partitioned between EtOAc (20 mL) and 2 M NaOH (20 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with water (20 mL), brine (20 mL), dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a pale yellow solid which was dissolved in EtOAc (2 mL) to which was added cyclohexane (10 mL). The resulting precipitate was collected by filtration to afford the title compound (I2) (25 mg, 47%) as an off-white solid; 1H NMR (400 MHz, d6-DMSO) δ 10.14 (s, 1H), 8.67 (s, 1H), 7.68-7.65 (m, 2H), 7.42-7.34 (m, 1H), 7.26-7.12 (m, 6H), 6.87 (s, 1H), 3.86 (q, J=7.0 Hz, 1H), 3.44-3.18 (m, peaks obscured by water peak), 3.14-2.95 (m, 5H), 2.64-2.46 (m, peaks obscured by DMSO), 1.68 (d, J=13.0 Hz, 2H), 1.49 (qd, J=12.1, 2.4 Hz, 2H), 1.31 (d, J=7.0 Hz, 3H). LCMS Method C: rt 4.91 min; m/z 498 [M+H]+.

reactant | Trifluoroacetic acid | 5.46 mmol, 0.417 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-((4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.109 mmol, 65.2 mg | NC(C(C)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C32H38F3N5O3
reactant | cyclohexane | 10 mL | C1CCCCC1 | C6H12
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 2-(2-(2-(2-((4-(Piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)propanamide | 25 mg, 47% | N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)C)C(F)(F)F | C27H30F3N5O
